US04710323
Phenyl-(2-amino-5-nitrophenyl) sulfoxide
The procedure described in Example 20 is followed, except that as a starting material instead of phenyl-(4-chloro-3-nitrophenyl) sulfoxide a corresponding amount of phenyl-(2-chloro-5-nitrophenyl) sulfoxide is employed, and the reaction is carried out at 140° C. for 20 hours.

reactant | phenyl-(4-chloro-3-nitrophenyl) sulfoxide | C1(=CC=CC=C1)S(=O)C1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C12H8ClNO3S
reactant | phenyl-(2-chloro-5-nitrophenyl) sulfoxide | C1(=CC=CC=C1)S(=O)C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C12H8ClNO3S
product | Phenyl-(2-amino-5-nitrophenyl) sulfoxide | C1(=CC=CC=C1)S(=O)C1=C(C=CC(=C1)[N+](=O)[O-])N | C12H10N2O3S
